US06503949B1
Step B: Resin Bound 3-{4-[(9H-fluoren-9-ylmethoxycarbonylamino)methyl]benzoylamino}propionic Acid
To the above resin bound Fmoc β-alanine was added 500 μL of a 20% solution of piperidine in DMF. Upon shaking 30 min, the resin was drained and washed with 1 mL DMF containing 1-hydroxybenzotriazole (50 mg/mL) and DMF (2×1 mL). Then 200 μmol 4-[(9H-fluoren-9-yl-methoxycarbonylamino)methyl]benzoic acid (74.2 mg) dissolved in a mixture of 430 μL DMF and 70 μL diethylisopropylamine was added followed by 200 μmol bromo-tris-pyrrolidinophosphonium hexafluorophosphate (PyBrOP, 93 mg) dissolved in 500 μL DMF. The mixture was shaken for 4 hours at 25° C. followed by filtration and washing of the resin with 3×1 mL DMF.

reactant | Fmoc β-alanine | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)NCCC(=O)O | C18H17NO4
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | 4-[(9H-fluoren-9-yl-methoxycarbonylamino)methyl]benzoic acid | 200 μmol, 74.2 mg | C1=CC=CC=2C3=CC=CC=C3C(C12)N(C(=O)OC)CC1=CC=C(C(=O)O)C=C1 | C23H19NO4
reactant | bromo-tris-pyrrolidinophosphonium hexafluorophosphate | 200 μmol, 93 mg | F[P-](F)(F)(F)(F)F.Br[P+](N1CCCC1)(N1CCCC1)N1CCCC1
reactant | DMF | CN(C)C=O | C3H7NO
reactant | DMF | 430 μL | CN(C)C=O | C3H7NO
reactant | DMF | 500 μL | CN(C)C=O | C3H7NO
solvent | diethylisopropylamine | 70 μL | C(C)N(C(C)C)CC | C7H17N
product | 3-{4-[(9H-fluoren-9-ylmethoxycarbonylamino)methyl]benzoylamino}propionic Acid | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)NCC1=CC=C(C(=O)NCCC(=O)O)C=C1 | C26H24N2O5
